US08685969B2
5. 4-(2-Fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a solution of ethyl 4-(2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate (94 mg, 0.224 mmol) in MeOH (5 mL) at room temperature was added 1N sodium hydroxide solution (1.121 mL, 1.121 mmol). The mixture was heated at reflux for 1 hr and then concentrated under vacuum. To the residue was added water (20 mL), and the resulting mixture was neutralized with 1 N HCl solution to pH 5. The precipitating product (68 mg, 0.172 mmol, 77% yield) was collected as a tan solid by suction filtration and dried at 50° C. under vacuum.

reactant | ethyl 4-(2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate | 0.224 mmol, 94 mg | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)OCC | C24H22FN3O3
reactant | sodium hydroxide | 1.121 mmol, 1N, 1.121 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(2-Fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.172 mmol, 68 mg, 77% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)O | C22H18FN3O3
